Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of dementia, HTN, CAD, BPH, hospitalization at 
___ on ___ for syncope presents with witnessed syncope. Per 
EMS, daughter was with him at ___.  
Patient was in a chair and had LOC for a few seconds. Did not 
hit his head.  Patient does not recall palpitations, 
diaphoresis, lightheadedness prior to syncope.  Spoke with his 
daughter.  She came to visit patient at ___ for lunch 
today.  He looked "unwell" and somewhat confused.  He was not 
eating his lunch.  Put food in his mouth and spit it out.  When 
asked if he was okay, answered "I'm just not hungry" multiple 
times.  Pt then looked diaphoretic, pale, and outstretched his 
hands as if to catch himself.  He then slumped over and was 
unarousable.  This lasted approximately 30 seconds.  When he 
woke up, he was alert, oriented, and conversational, but did not 
recall what happened.  Per daughter, when he was hospitalized 
for syncope 3 weeks ago, he also had an episode with both of his 
arms shaking followed by LOC for several minutes. Per nursing, 
his BP was 64/40, he was diaphoretic, and confused. For EMS his 
BP was 128/64. Finger stick in ER was 91.  He arrived with foley 
catheter from nursing home, scant records available.  
.
Of note, patient was recently admitted on ___ to 
___ for syncopal episode. During hospital stay, 
patient had TTE which showed EF of 60%, head CT which was 
unremarkable, Hct of 30 and Cr of 1.5.  There was a question of 
elder abuse/social work file opened given that at patient's home 
there were beer cans on the floor mixed with medications. 
.
ED course notable for: initial vitals: 98.2 55 120/56 22 97% 3L. 
Given IV cipro for UTI. Chest x-ray negative for acute process. 
Labs notable for UA positive for UTI, blood and urine cx sent, 
trop <0.01, lactate 1.5 and neutrophil ___ WBC. EKG notable 
for sinus brady, no ST changes. ED team did not reach NH or 
family. Did NOT change foley cath. Mental Status: Pt A+Ox2 This 
is his baseline. Lines & Drains: iv 20g r ac. Drips: cipro 400mg 
iv running. Most Recent Vitals: 98.2, 61, 125/54,13,100ra prior 
to transfer. 
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  
.  
 
Past Medical History:
HTN
hypothyroidism
Alzheimer d
PUD
BPH
total knee replacement
s/p gastric surgery for bleeding ulcers years ago
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Physical Exam on Admission:
.
Vitals: T 97.6  BP 150/74 P 58 RR 20 O2 100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MM somewhat dry, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, +BS, nontender, nondistended
Ext: no cyanosis/edema
Neuro: alert, oriented to self, ___, ___, able to 
say days of the week backwards, CN II-XII intact, finger to 
nose/heel to shin intact, ___ strength in LEs and UEs b/l, no 
pronator drift, sensation to light touch intact throughout.

Physical exam on Discharge
Vitals: Pt remained afebrile.  His blood pressure typically ran 
in the 110-140/70s.  Pt was initially orthostatic with a 
systolic drop of 40 from lying to standing as well as an 
increase in HR of >40.  After fluids, repeat orthostatics 
revealed little change in blood pressure, but the heart rate 
increase remained the same.
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, +BS, nontender, nondistended
Ext: no cyanosis, edema
Neuro: alert, oriented to self, ___, ___, able to 
say days of the week backwards, CN II-XII intact, finger to 
nose/heel to shin intact, ___ strength in LEs and UEs b/l, no 
pronator drift, sensation to light touch intact throughout.  
Able to ambulate on own.
 
Pertinent Results:
Labs on Admission:
.

___ 02:55PM   WBC-13.4* RBC-3.49* HGB-9.5* HCT-29.2* MCV-84 
MCH-27.2 MCHC-32.4 RDW-17.8*
___ 02:55PM   cTropnT-<0.01
___ 02:55PM   GLUCOSE-110* UREA N-20 CREAT-1.1 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
___ 05:24PM   LACTATE-1.5
___ 03:25PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 03:25PM URINE  BLOOD-SM  NITRITE-POS PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-LG
___ 03:25PM URINE  RBC-13* WBC-19* BACTERIA-MOD YEAST-NONE 
EPI-<1
___ 03:25PM URINE  3PHOSPHAT-MOD
___ 03:25PM URINE  MUCOUS-OCC
___ 02:55PM   GLUCOSE-110* UREA N-20 CREAT-1.1 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14

Relevant and Discharge labs:
___ 07:50AM BLOOD WBC-7.9 RBC-3.64* Hgb-9.8* Hct-30.7* 
MCV-84 MCH-26.8* MCHC-31.8 RDW-17.6* Plt ___
Fill in new CMP

___ 02:55PM BLOOD calTIBC-358 VitB12-1509* Folate-11.3 
Ferritn-33 TRF-275
___ 03:34PM URINE Blood-TR Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-8.5* Leuks-LG
___ 03:34PM URINE RBC-1 WBC-4 Bacteri-MANY Yeast-NONE Epi-0
___ 03:34PM URINE CholesX-MANY
___ 03:34PM URINE Hours-RANDOM UreaN-495 Creat-106 Na-66 
K-54 Cl-67
___ 3:25 pm URINE     Site: CATHETER

Pertinent Micro:
___ 3:25 pm URINE     Site: CATHETER

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----  =>16 R

Pertinent Imaging:
___ ECG: No change from previous except for now in sinus 
bradycardia
___ CXR: WNL
___  TTE: >55% LVEF w/ nL cavity size and function.  No evidence 
of any outflow tract obstruction or aortic stenosis.  No ASD by 
2D or color Doppler.  Mild LVH. The left atrium is elongated. 
The right atrium is moderately dilated. No echo clues for 
syncope.
 
Brief Hospital Course:
___ yo M with history of dementia, HTN, BPH, hospitalization at 
OSH on ___ for syncope presents with another episode of 
witnessed syncope.  Pt found to have orthostatic hypotension and 
UTI. 
.
# Syncope workup: The patient's syncope workup included an 
examination of cardiac, autonomic, and neurological causes.  
Given the patient's preceding diaphoresis, paleness, and lack of 
post-ictal confusion or tiredness after the event, it was 
thought that this was a syncopal episode and not a seizure.  
Neurology was consulted and did not think that the etiology of 
LOC for this individual was a seizure or other neurological 
process and did not think that EEG or MRI was necessary. 
Notably, the patient had a recent Non contrast head CT done at 
the OSH and this was normal with no evidence of hemmorhage, 
ischemic stroke, infection, or masses.  The patient's vitals 
signs were remarkable for orthostatic hypotension.  Initially, 
the pt's SBP dropped by 40 and the HR increased by greater than 
40 upon lying to standing.  After volume repletion, the pt's 
blood pressures remained stable upon lying to standing, but the 
heart rate still increased by 40.  At the rehab facility, it was 
noted that his SBP mostly ranged in the ___ and during the time 
of his syncope, his BP was 60/40.  Because a contributing factor 
to his syncope was likely hypotension, we discontinued the 
patient's tamsulosin and doxazosin after emailing the patient's 
PCP, ___.  We found that the patient also had a UTI 
___ his indwelling foley catheter, which likely led to poor oral 
and fluid intake, as well as frequent urination, thereby 
exacerbating the patient's hypotension.  However, given that the 
patient's syncope occurred while he was sitting, it is unlikely 
that orthostasis in and of itself caused the event.  The pt's 
daughter does not give any history of a preceding event to 
elicit a vasovagal response.  The patient was tested for carotid 
hypersensitivity via massage and this was also negative.  
Repeated TTE during his hospitalization was unremarkable.  The 
patient was on telemetry throughout his hospital course and this 
was only remarkable for multiple PACs as well as one episode 
where the patient became tachycardic to about 150 which lasted 
for approximately a minute.  Based on this rhythm strip, I was 
unable to discern what the origin of the supraventricular 
tachycardia was: sinus tachycardia vs AVNRT vs 2:1 Atrial 
flutter. It was likely SVT. However, this was the only notable 
episode of tachycardia seen on telemetry and as this occurred in 
the middle of the night, the patient was not assessed during 
that time.  At this point, we cannot rule out an SVT in the 
setting of poor volume status and hypotension leading to the 
patient's syncope. We have placed the patient on ___ 
monitor.  If the monitor is not revealing and the patient 
continues to have syncopal events, a workup with tilt table 
testing, followed by EP study seems reasonable. 
.
# UTI: The pt was found to have a UTI in the setting of a 
chronic indwelling foley.  The patient's foley was discontinued 
and the patient voided well despite his history of BPH.  The 
patient was treated with oral ciprofloxacin 500mg BID.  The 
urine culture returned growing Proteus, which was what was 
initially suspected based on UA the susceptibilities showed 
adequate coverage with cephalexin. Ciprofloxacin was stopped. By 
definition, because of the indwelling foley, the patient's UTI 
is classified as complicated and will require another 10 days of 
cephalexin treatment.
.

# Anemia: The patient is anemic with a hct of about 30 which is 
similar to where he was at the OSH 2 weeks ago.  The pt had a 
low serum iron at 16, but ferritin and TIBC were normal.  The pt 
will likely need stool guaiac as an outpatient to evaluate for 
any bleeding as well as consideration of ferrous sulfate and 
consideration of addtional workup as appropriate including 
possible colonoscopy.
.
# Rising Creatinine: The pt's creatinine rose from 1.1 on 
admission to 1.3.  His FeNa was <1%.  The patient was given IV 
fluids to treat the prerenal etiology.  The cr on afternoon of 
admission was 1.2
.
# Transitional Issues: Going to ___.  Following up 
with Dr. ___ on ___.  If the ___ 
monitor is not revealing and the patient continues to have 
syncopal events, a workup with tilt table testing, followed by 
EP study seems reasonable at Dr. ___. 

 
Medications on Admission:
Medications:  Taken from ___ discharge summary.
atenolol 12.5 mg Tablet one Tablet(s) by mouth daily  
donepezil [Aricept] 10 mg Tablet 1 Tablet(s) by mouth each day 
at bedtime  
Levothyroxine 100 mcg Tablet 1 Tablet(s) by mouth each day  
lisinopril 10 mg Tablet one Tablet(s) by mouth daily 
venlafaxine [Effexor XR] 37.5 mg Capsule, Ext Release 24 hr qD
Potassium Chloride 20meq 1 tab PO daily
Melatonin 1 mg 1 tab PO at bedtime
Flomax 0.4mg PO 1 tab daily
finasteride 5 mg Tablet 1 Tablet(s) by mouth each day  

   * OTCs *             
cyanocobalamin (vitamin B-12) [Vitamin B-12] 1,000 mcg Tablet 
qDay
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).
Disp:*180 Tablet(s)* Refills:*2*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime).
Disp:*60 Tablet(s)* Refills:*2*
4. atenolol 25 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
6. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. venlafaxine 37.5 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
9. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
One (1) Tablet, ER Particles/Crystals PO once a day.  
10. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 10 days: end day ___.
Disp:*40 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Syncope
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
.
It was a pleasure taking care of you at ___ 
___.  You were admitted after an episode of loss of 
consciousness at your nursing home.  To determine the cause of 
this, we monitored your blood pressures lying and standing, 
monitored your heart rhythms, and looked at your heart with an 
echocardiogram (which was normal). You were dehydrated and 
improved with IV fluids. Because your pressures were very 
different when standing and lying down, we discontinued one of 
your blood pressure medications (this was confirmed with your 
PCP ___. 

We are also sending you to ___ with a heart monitor 
in case you have another event where you lose consciousness so 
that the doctors ___ if there were any odd heart rhythms 
which may have brought on the event. The results of the monitor 
will be sent to Dr. ___. When the monitoring is complete you 
can mail the instrument back to ___ via the packaging 
provided.
.
On admission, you were also found to have a urinary tract 
infection.  We treated you with an antibiotic which you need to 
keep taking for 10 days.

Medications started:
Cephalexin 500mg every 6hours, last day ___

Medications stopped:
TAMSULOSIN (FLOMAX)
DOXAZOSIN
 
Followup Instructions:
___